US08309721B2
3.49 ml of 1N hydrochloric acid are added to a solution of 340 mg of 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)amino]benzoate in 6 ml of dioxane. The reaction mixture is heated at 100° C. in a microwave for 2 hours and then concentrated under reduced pressure. The residue is purified by trituration with diisopropyl ether, so as to give 330 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)amino]benzoic acid hydrochloride in the form of a pale yellow powder, the characteristics of which are the following:

reactant | hydrochloric acid | 1N, 3.49 ml | Cl | ClH
reactant | 2-methylpropan-2-yl 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)amino]benzoate | 340 mg | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC1CC2CCC(C1)N2C | C37H37N5O2
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)amino]benzoic acid hydrochloride | 330 mg | Cl.C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)O)C=C1)NC1CC2CCC(C1)N2C | InChI=1S/C33H29N5O2.ClH/c1-37-23-11-12-24(37)16-22(15-23)36-29-17-25(13-14-27(29)33(39)40)38-30-7-3-2-5-28(30)32-26(6-4-8-31(32)38)20-9-10-21(18-34)35-19-20;/h2-10,13-14,17,19,22-24,36H,11-12,15-16H2,1H3,(H,39,40);1H
